US07189717B2
4-(2-Furyl)-5-(4-pyridyl)-2-pyrimidinyl amine
A suspension of 3-(dimethylamino)-1-(2-furyl)-2-(4-pyridyl)-2-propene-1-one (2.2 g, 9.08 mmol), guanidine hydrochloride (2.6 g, 27.2 mmol) and potassium carbonate (7.5 g, 54.3 mmol) in N,N-dimethylformamide (20 mL) was stirred at 70° C. for 12 hours. After cooling as it was, the reaction mixture was diluted with water. The resulting crystals were collected by filtration and washed with water, to give the title compound (1.73 g, 80%) as a pale yellow solid.

reactant | 3-(dimethylamino)-1-(2-furyl)-2-(4-pyridyl)-2-propene-1-one | 9.08 mmol, 2.2 g | CN(C=C(C(=O)C=1OC=CC1)C1=CC=NC=C1)C | C14H14N2O2
reactant | guanidine hydrochloride | 27.2 mmol, 2.6 g | Cl.NC(=N)N
reactant | potassium carbonate | 54.3 mmol, 7.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(2-Furyl)-5-(4-pyridyl)-2-pyrimidinyl amine | 1.73 g, 80% | O1C(=CC=C1)C1=NC(=NC=C1C1=CC=NC=C1)N | C13H10N4O
